US07060827B2
In like manner to N2,N4-bis(3-hydroxyphenyl)-5-ethoxycarbonyl-2,4-pyrimidinediamine, 2,4-dichloro-5-ethoxycarbonylpyrimidine and 4-cyanomethylaniline were reacted to yield N2,N4-bis(4-cyanomethylphenyl)-5-ethoxycarbonyl-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 8.72 (s, 1H), 7.64 (m, 4H), 7.32 (d, 2H, J=8.7 Hz), 7.21 (d, 2H, J=8.4 Hz), 4.3 (q, 2H, J=7.0 Hz), 3.97 (s, 2H,), 3.89 (s, 2H), 1.32 (3H, J=7 Hz); LCMS: ret. time: 30.83 min.; purity: 90%; MS (m/e): 413 (MH+).

reactant | 2,4-dichloro-5-ethoxycarbonylpyrimidine | ClC1=NC=C(C(=N1)Cl)C(=O)OCC | C7H6Cl2N2O2
reactant | 4-cyanomethylaniline | C(#N)CC1=CC=C(N)C=C1 | C8H8N2
product | N2,N4-bis(4-cyanomethylphenyl)-5-ethoxycarbonyl-2,4-pyrimidinediamine | C(#N)CC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)CC#N)C(=O)OCC | C23H20N6O2
